US06590103B2
To a solution of 2,5-dibromopyridine (50 g, 211 mmol) in tetrahydrofuran (175 mL) at 0° C. was added 2.0 M isopropylmagnesium chloride (274 mmol) at a rate to maintain the temperature below B° C. The reaction mixture was stirred at 0° C. for 45 minutes, then cooled to −15° C. A solution of methanesulfonyl chloride (32.2 g, 281 mmol) in tetrahydrofuran (40 mL) was added to the reaction mixture at such a rate to maintain the temperature below 5° C. The reaction mixture was allowed to warm to room temperature and then quenched with waler (500 mL) and tert-butylmethylether (300 mL). The layers were separated the aqueous layer was extracted twice with tert-butylmethylether (2×200 mL). The combined organic extracts were washed with water (200 mL) and concentrated. The crude product was crystallized from toluene (110 mL), the solids were filtered to afford 29.4 g (59% yield) of 2-bromo-5-(methanesulfonyl)-pyridine. 1H NMR (300 MHz, CDCI3) δ3.13 (s, 3H), 7.73 (d, J=8.3 Hz, 1H), 8.07 (dd, J1=8.3 Hz, J2=2.7 Hz, 1H), 8.91 (d, J=2.5 Hz, 1H).

reactant | 2,5-dibromopyridine | 211 mmol, 50 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | isopropylmagnesium chloride | 274 mmol, 2.0 M | C(C)(C)[Mg]Cl
reactant | methanesulfonyl chloride | 281 mmol, 32.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-bromo-5-(methanesulfonyl)-pyridine | 29.4 g, 59% yield | BrC1=NC=C(C=C1)S(=O)(=O)C | C6H6BrNO2S
